US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and sodium dodecanethiolate in 1-dodecanethiol there is obtained dodecyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate, which is purified by flash chromatography on silica gel using n-hexane/ethyl acetate (1:1) as the eluent; 1H-NMR(CDCl3): 0.88 (t, CH3), 1.2-2.0 (20H), 2.5 (t, SCH2), 4.43 (s, 4H), 7.3-7.7 (8H);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium dodecanethiolate | C(CCCCCCCCCCC)[S-].[Na+]
solvent | 1-dodecanethiol | C(CCCCCCCCCCC)S | C12H26S
product | dodecyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(=N)SCCCCCCCCCCCC | C27H38N2S
